US08466282B2
N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1-[2-(1,2,4-oxadiazol-3-yl)ethyl]-1H-benzimidazole-2-carboxamide dihydrochloride
Hydroxylamine hydrochloride (125 mg) was dissolved in dimethyl sulfoxide (5 ml), sodium hydrogen carbonate (463 mg) was added and the mixture was stirred at 50° C. for 1 hr. A solution of tert-butyl (3S,5R)-3-[{[1-(2-cyanoethyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (100 mg) in dimethyl sulfoxide (5 ml) was added to the reaction mixture, and the mixture was stirred at 90° C. for 3 hr. The reaction mixture was allowed to cool to room temperature, diluted with water, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in trimethyl orthoformate (5 ml) and the mixture was stirred at 100° C. for 5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to basic silica gel chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give tert-butyl (3S,5R)-3-[(2-methylpropyl)({1-[2-(1,2,4-oxadiazol-3-yl)ethyl]-1H-benzimidazol-2-yl}carbonyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate. The obtained tert-butyl (3S,5R)-3-[(2-methylpropyl)({1-[2-(1,2,4-oxadiazol-3-yl)ethyl]-1H-benzimidazol-2-yl}carbonyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate was dissolved in 4M hydrogen chloride-ethyl acetate (3 ml), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, and the residue was subjected to reversed-phase preparative HPLC and the eluted fraction was concentrated under reduced pressure. The residue was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. 4M Hydrogen chloride-ethyl acetate (1 ml) was added and the mixture was stirred for min. The solvent was evaporated under reduced pressure to give the object product (35 mg).

reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)({1-[2-(1,2,4-oxadiazol-3-yl)ethyl]-1H-benzimidazol-2-yl}carbonyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | CC(CN([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C(=O)C1=NC2=C(N1CCC1=NOC=N1)C=CC=C2)C | C31H43N7O6
reactant | hydrogen chloride-ethyl acetate | 4M, 3 ml | C(C)(=O)OCC.Cl
product | N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1-[2-(1,2,4-oxadiazol-3-yl)ethyl]-1H-benzimidazole-2-carboxamide dihydrochloride | 35 mg | Cl.Cl.CC(CN(C(=O)C1=NC2=C(N1CCC1=NOC=N1)C=CC=C2)[C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)C | InChI=1S/C26H35N7O4.2ClH/c1-18(2)16-33(20-13-19(14-27-15-20)25(34)31-9-11-36-12-10-31)26(35)24-29-21-5-3-4-6-22(21)32(24)8-7-23-28-17-37-30-23;;/h3-6,17-20,27H,7-16H2,1-2H3;2*1H/t19-,20+;;/m1../s1
